US04483865
A mixture of 6 parts of 1-(2,4-dichlorophenyl)-2-(1H-imidazole-1-yl)-1-propanone and 30 parts of methanesulfonic acid was stirred till all solid entered solution. After cooling, 5.5 parts of 1,2-ethanedithiol were added while nitrogen gas was introduced. The whole was stirred overnight at room temperature. The reaction mixture was diluted with trichloromethane till a volume of 150 parts. This solution was added dropwise to a vigorously stirred solution of potassium carbonate in water. The organic phase was separated, washed with water, dried, filtered and evaporated. The oily residue was converted into the nitrate salt in 2-propanol. 2,2'-Oxybispropane was added till turbid and the formed salt was allowed to crystallize. It was filtered off and dried, yielding 6 parts of 2-(2,4-dichlorophenyl)-2-[1-(1H-imidazol-1-yl)ethyl]-1,3-dithiolane; mp. 141.9° C. (compound 29).

reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazole-1-yl)-1-propanone | ClC1=C(C=CC(=C1)Cl)C(C(C)N1C=NC=C1)=O | C12H10Cl2N2O
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | 1,2-ethanedithiol | C(CS)S | C2H6S2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-(2,4-dichlorophenyl)-2-[1-(1H-imidazol-1-yl)ethyl]-1,3-dithiolane | ClC1=C(C=CC(=C1)Cl)C1(SCCS1)C(C)N1C=NC=C1 | C14H14Cl2N2S2
